US06030970
e) 1-n-Butyl-4-hydroxymethyl-5-(2-methoxymethoxy-4-methoxyphenyl)-1H-imidazole
To a solution of ethyl 1-n-butyl-5-(2-methoxymethoxy-4-methoxyphenyl)-1H-imidazole-4-carboxylate (0.06 g, 0.17 mmol) in THF (5 mL) was added LAH (0.20 mL) at room temperature. The mixture was stirred for 2 h. After an aqueous work up, extracting with ethyl acetate (3×20 mL), the combined organic extracts were washed with brine and dried (Na2SO4). After removing the solvent under reduced pressure, flash column chromatography (1:1 ethyl acetate/hexane) of the residue afforded the title compound as an oil (0.05 g, 96%). 1H NMR (400 MHz, CDCl3)δ 7.53 (s, 1H), 7.19 (d, 1H), 6.85 (d, 1H), 6.65 (dd, 1H), 5.05 (d, 2H), 4.41 (dd, 2H), 3.85 (s, 3H) 3.80 (t, 2H), 3.45 (s, 3H) 3.23 (b, 1H), 1.55 (quintet, 2H), 1.25 (quintet, 2H), 0.83 (t, 3H).

reactant | ethyl 1-n-butyl-5-(2-methoxymethoxy-4-methoxyphenyl)-1H-imidazole-4-carboxylate | 0.17 mmol, 0.06 g | C(CCC)N1C=NC(=C1C1=C(C=C(C=C1)OC)OCOC)C(=O)OCC | C19H26N2O5
reactant | LAH | 0.20 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-n-Butyl-4-hydroxymethyl-5-(2-methoxymethoxy-4-methoxyphenyl)-1H-imidazole | 0.05 g, 96% | C(CCC)N1C=NC(=C1C1=C(C=C(C=C1)OC)OCOC)CO | C17H24N2O4
